US04564684
3-Amino-1-(2-pyridyl)-2-pyrazoline (1.5 g) was added to formic acid (22 ml) at 60° in an atmosphere of nitrogen. The mixture was stirred whilst acetic anhydride (2.3 ml) was added dropwise. The mixture was heated at 100° for 1 hour before being evaporated in vacuo to give 3-formamido-1-(2-pyridyl)-2-pyrazoline which was recrystallised from isopropanol, m.p. 182°-183° (yield 1.17 g).

reactant | 3-Amino-1-(2-pyridyl)-2-pyrazoline | 1.5 g | NC1=NN(CC1)C1=NC=CC=C1 | C8H10N4
reactant | acetic anhydride | 2.3 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 22 ml | C(=O)O | CH2O2
product | 3-formamido-1-(2-pyridyl)-2-pyrazoline | C(=O)NC1=NN(CC1)C1=NC=CC=C1 | C9H10N4O
